US05624943
Under the conditions of example 16K, 8.8 g of 3-(6-formyl-3-methoxy-2-pyridyl)-propionic acid methyl ester in 114 ml of 48% hydrobromic acid is reacted and worked up. 4.7 g of 3-(6-formyl-3-hydroxy-2-pyridyl)-propionic acid is obtained as crude product, which is dissolved in 350 ml of methanol for further reaction and is stirred in the presence of 14.4 g of Amberlyst 15 for 16 hours at room temperature. The methanol is removed in a vacuum, the residue is absorptively precipitated with concentrated ammonia solution, filtered on diatomaceous earth and the filter residue is washed with concentrated ammonia solution. The filtrate is neutralized with concentrated hydrochloric acid, adjusted to pH 5 with diluted hydrochloric acid, shaken out with ethyl acetate, the organic phase is dried on sodium sulfate and concentrated by evaporation. The crude product is chromatographed on silica gel with hexane/0-20% ethyl acetate. 2.5 g of 3-(6-formyl-3-hydroxy-2-pyridyl)-propionic acid methyl ester of melting point 92°-95° C. is obtained.

reactant | 3-(6-formyl-3-methoxy-2-pyridyl)-propionic acid methyl ester | 8.8 g | COC(CCC1=NC(=CC=C1OC)C=O)=O | C11H13NO4
solvent | hydrobromic acid | 114 ml | Br | BrH
product | 3-(6-formyl-3-hydroxy-2-pyridyl)-propionic acid | 4.7 g | C(=O)C1=CC=C(C(=N1)CCC(=O)O)O | C9H9NO4
